US05886209
Into a mixture of 191 g (1 mol) of 2-(4-hydroxyphenoxy)propionic acid, moist (5% of H2O content), and 160 g (5 mol) of methanol there was blown in 0.73 g (0.02 mol) of hydrogen chloride and the mixture was caused to react and purified in a manner similar to that described in example 1. There were obtained 196 g (100%) [content: 99,7%] of methyl 2-(4-hydroxyphenoxy)propionate (chloride value: 34 ppm; organic chlorine: <10 ppm, other impurities: <0,1%, [hydroxyphenoxypropionic acid not detectable]).

reactant | 2-(4-hydroxyphenoxy)propionic acid | 1 mol, 191 g | OC1=CC=C(OC(C(=O)O)C)C=C1 | C9H10O4
reactant | methanol | 5 mol, 160 g | CO | CH4O
catalyst | hydrogen chloride | 0.02 mol, 0.73 g | Cl | ClH
solvent | H2O | O | H2O
product | methyl 2-(4-hydroxyphenoxy)propionate | 196 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
